US06046192
Ethyl 2-[(2S)-2-[[(2RS)-2-hydroxy-2-(4-hydroxyphenyl)-ethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]acetate (250 mg) was dissolved in tetrahydrofuran (5 ml), and dimethylamine (1 ml) was added to the solution under ice-cooling. After reaction in sealed tube at 60° C. for 60 hours, the reaction mixture was concentrated in vacuo. Purification of the residue by medium pressure liquid column chromatography on aminopropyl silica gel (eluent: ethyl acetate/ethanol=10/1) gave 2-[(2S)-2-[[(2RS)-2-hydroxy-2-(4-hydroxyphenyl)-ethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide (189 mg) as an amorphous.

reactant | Ethyl 2-[(2S)-2-[[(2RS)-2-hydroxy-2-(4-hydroxyphenyl)-ethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]acetate | 250 mg | OC(CN[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)OCC)C1=CC=C(C=C1)O | C22H27NO5
reactant | dimethylamine | 1 ml | CNC | C2H7N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[(2S)-2-[[(2RS)-2-hydroxy-2-(4-hydroxyphenyl)-ethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide | 189 mg | OC(CN[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)N(C)C)C1=CC=C(C=C1)O | C22H28N2O4
